US08232265B2
Lidocaine Docusate
Lidocaine hydrochloride (0.0188 mol) was dissolved in 50 mL methanol and sodium docusate [bis(2-ethylhexyl)sulfosuccinate sodium salt] (0.0188 mol) was dissolved in 50 mL. The two solutions were combined and stirred for two hours, during this time a white precipitate (NaCl) formed. The methanol was removed by rotary evaporation which leaves a white sticky solid. To this solid, 150 mL of chloroform was added. A portion of the product dissolved the chloroform while the byproduct (NaCl) remained as a suspended solid. The NaCl was removed by filitration, and the solvent was removed by rotary evaporation. The product, lidocaine docusate, is a colorless syrup and is dried under high vacuum. 1H and 13C NMR (CDCl3) were obtained.

reactant | Lidocaine hydrochloride | 0.0188 mol | CCN(CC)CC(=O)NC=1C(=CC=CC1C)C.Cl
reactant | sodium docusate | 0.0188 mol | [Na].CCCCC(CC)COC(=O)CC(C(=O)OCC(CC)CCCC)S(=O)(=O)O
reactant | NaCl | [Na+].[Cl-]
reactant | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 50 mL | CO | CH4O
product | Lidocaine Docusate | CCN(CC)CC(=O)NC=1C(=CC=CC1C)C.CCCCC(CC)COC(=O)CC(C(=O)OCC(CC)CCCC)S(=O)(=O)O | InChI=1S/C20H38O7S.C14H22N2O/c1-5-9-11-16(7-3)14-26-19(21)13-18(28(23,24)25)20(22)27-15-17(8-4)12-10-6-2;1-5-16(6-2)10-13(17)15-14-11(3)8-7-9-12(14)4/h16-18H,5-15H2,1-4H3,(H,23,24,25);7-9H,5-6,10H2,1-4H3,(H,15,17)
